US06624121B1
3-[(4Cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorobenzoic acid (5.05 g) and thionyl chloride (5.48 g) were added to 1,2-dichloroethane (60 ml) and the mixture, after adding several drops of DMF, was refluxed upon heating. After cooling, the solvent was distilled off to obtain crude 3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorobenzoyl chloride (5.46 g).

reactant | 3-[(4Cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorobenzoic acid | 5.05 g | C1(CC1)N1N=NN(C1=O)CC=1C(=C(C(=O)O)C=CC1Cl)Cl | C12H10Cl2N4O3
reactant | thionyl chloride | 5.48 g | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | several drops | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorobenzoyl chloride | 5.46 g | C1(CC1)N1N=NN(C1=O)CC=1C(=C(C(=O)Cl)C=CC1Cl)Cl | C12H9Cl3N4O2
